US08022205B2
1-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-ethanone (C-02)
1-[4-(3-t-Butoxyphenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-ethanone (20 mg) prepared according to Step E in Example 1-J-01 described later was dissolved in trifluoroacetic acid (500 μl), followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and to the resulting residue, water (5 ml) and methanol (1 ml) were added, followed by neutralization with aqueous saturated sodium bicarbonate solution. The deposited precipitate was filtered off, followed by drying under reduced pressure, to obtain a colorless powder (11 mg, 64%).

reactant | 1-[4-(3-t-Butoxyphenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-ethanone | 20 mg | C(C)(C)(C)OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C(C)=O | C22H28N4O3
solvent | trifluoroacetic acid | 500 μl | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[4-(3-Hydroxy-phenyl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-ethanone | 11 mg, 64% | OC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C(C)=O | C18H20N4O3
